US05142052
1-Diphenylmethyl-4-[(2-(-4-methylphenyl)-5-methyl-1 H-imidazol-4-yl)methyl]piperazine
One mole of 4-hydroxymethyl-2-(4-methylpheny)-5-methyl-1H-imidazole (202 g) was dissolved in 2 liters of 95% ethanol, then 252 g (1 mole) of N-(diphenylmethyl)piperazine was added portionwise. This was followed by the addition of 1 liter of water, 60 g (1.5 mole) of sodium hydroxide (as 12N solution) and 8.7 g (0.1 mole) of lithium bromide. The reaction medium was refluxed for 5 hours, allowed to cool to room temperature, and was stirred overnight. The precipitate that formed was filtered and purified by reslurrying from 1.2 liters of an ethanol-water mixture (60/40) to produce the 383.6 g of the title compound (0.88 mole, 88% yield), having a melting point of 238° C.

reactant | 4-hydroxymethyl-2-(4-methylpheny)-5-methyl-1H-imidazole | One mole, 202 g | OCC=1N=C(NC1C)C1=CC=C(C=C1)C | C12H14N2O
reactant | N-(diphenylmethyl)piperazine | 1 mole, 252 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium hydroxide | 1.5 mole, 12N, 60 g | [OH-].[Na+]
reactant | lithium bromide | 0.1 mole, 8.7 g | [Br-].[Li+]
solvent | ethanol | 2 liters | C(C)O | C2H6O
solvent | water | 1 liter | O | H2O
product | 1-Diphenylmethyl-4-[(2-(-4-methylphenyl)-5-methyl-1 H-imidazol-4-yl)methyl]piperazine | 0.88 mole, 383.6 g, 88% yield | C1(=CC=CC=C1)C(N1CCN(CC1)CC=1N=C(NC1C)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C29H32N4
